US09226916B2
[(3S,4R)-4-(4-Chloro-phenyl)-1-(2,2-dimethyl-tetrahydro-pyran-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound [(3S,4R)-4-(4-chloro-phenyl)-1-(2,2-dimethyl-tetrahydro-pyran-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester instead of [(3S,4R)-4-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using 2,2-dimethyl-tetrahydro-2H-pyrane-4-carboxylic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as an off-white foam. MS m/e: 489.3 [M+H]+.

reactant | [(3S,4R)-4-(4-chloro-phenyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CNC[C@H]1C1=CC=C(C=C1)Cl)=O | C18H18ClFN2O2
reactant | 2,2-dimethyl-tetrahydro-2H-pyrane-4-carboxylic acid | CC1(OCCC(C1)C(=O)O)C | C8H14O3
product | [(3S,4R)-4-(4-chloro-phenyl)-1-(2,2-dimethyl-tetrahydro-pyran-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CC(OCC1)(C)C)=O | C26H30ClFN2O4
